US07365231B2
A mixture of 2.00 g (6.26 mmol) of 1,3-bis(4-hydroxyphenyl)adamantane, 2.00 g (12.7 mmol) of 5-fluoro-2-nitrophenol, 1.70 g (12.3 mmol) of anhydrous K2CO3, and 50 mL of dry DMF was reflux for 12 h under nitrogen. The mixture was allowed to cool and subsequently poured into 500 mL of distilled water. The resulting solution was acidied by concentrated hydrogen chloride to PH=3.5˜4.0. The precipitated product was collected, washed thoroughly with water until neutral, and then dried to give 3.46 g (93.1%) of 1,3-bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)adamantane. mp 118˜122° C.; Elemental Anal. Calcd. for C34H30N2O8: C, 68.69; H, 5.05; N, 4.71. Found: C, 68.56; H, 5.12; N, 4.65. MS (EI) m/z 594 (M+, 100); IR (KBr): 3416, 2890, 2857, 1556, 1342 cm−1.

reactant | 1,3-bis(4-hydroxyphenyl)adamantane | 6.26 mmol, 2.00 g | OC1=CC=C(C=C1)C12CC3(CC(CC(C1)C3)C2)C2=CC=C(C=C2)O | C22H24O2
reactant | 5-fluoro-2-nitrophenol | 12.7 mmol, 2.00 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | K2CO3 | 12.3 mmol, 1.70 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | water | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1,3-bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)adamantane | 3.46 g, 93.1% | OC=1C=C(OC2=CC=C(C=C2)C23CC4(CC(CC(C2)C4)C3)C3=CC=C(C=C3)OC3=CC(=C(C=C3)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C34H30N2O8
